US04734123
N-(2,6-dichlorophenyl)-7-chloro-5-methyl-1,2,4-triazolo-[1,5-a]pyrimidine-2-sulfonamide
A suspension of 10.0 g (27.0 mmol) of N-(2,6-dichlorophenyl)-7-hydroxy-5-methyl-1,2,4-triazolo-[1,5-a]-pyrimidine-2-sulfonamide and 100 ml (1.1 mol) of phosphorous oxychloride in 700 ml of acetonitrile (dried over 4A Molecular Sieves) was heated at reflux for 24 hr. As the reaction progressed the mixture became homogeneous. After cooling the solution was concentrated by rotary evaporation in vacuo and the resulting residue was diluted with 300 ml of methylene chloride and 10 ml of water. The methylene chloride solution was decanted off and the solid that had formed was triturated with 100 ml of hexane and 5 ml of water. The resulting yellow solid was collected. Recovered 9.0 g (85 percent) of the desired product; mp 217°-220° C. An analytical sample could be prepared by recrystallization from methanol (mp 218°-221° C.).

reactant | N-(2,6-dichlorophenyl)-7-hydroxy-5-methyl-1,2,4-triazolo-[1,5-a]-pyrimidine-2-sulfonamide | 27.0 mmol, 10.0 g | ClC1=C(C(=CC=C1)Cl)NS(=O)(=O)C1=NN2C(N=C(C=C2O)C)=N1 | C12H9Cl2N5O3S
reactant | phosphorous oxychloride | 1.1 mol, 100 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
solvent | acetonitrile | 700 ml | C(C)#N | C2H3N
product | N-(2,6-dichlorophenyl)-7-chloro-5-methyl-1,2,4-triazolo-[1,5-a]pyrimidine-2-sulfonamide | ClC1=C(C(=CC=C1)Cl)NS(=O)(=O)C1=NN2C(N=C(C=C2Cl)C)=N1 | C12H8Cl3N5O2S
